US05439917
Preparation of 3-cyanomethyl-5-fluoro-2-methyl-7-[4-fluorophenacyl)pyrrolo[2,3-b]pyridine hydrochloride
A mixture of 3-(cyanomethyl)-5-fluoro-2-methylpyrrolo[2,3-b]pyridine (10mg, 0.053 mmol) and 4-fluorophenacyl chloride (19 mg, 0.11 mmol) in acetonitrile (0.2 ml) was refluxed under argon for 26 h, during which time the initial solution was transformed into a suspension. Then the suspension was allowed to reach room temperature, diluted with diethyl ether (2ml), and filtered. The crystalline product was washed with diethyl ether to give 8 mg (42%) of the title compound.

reactant | 3-(cyanomethyl)-5-fluoro-2-methylpyrrolo[2,3-b]pyridine | 0.053 mmol, 10mg | C(#N)CC1=C(NC2=NC=C(C=C21)F)C | C10H8FN3
reactant | 4-fluorophenacyl chloride | 0.11 mmol, 19 mg | FC1=CC=C(C(CCl)=O)C=C1 | C8H6ClFO
solvent | acetonitrile | 0.2 ml | C(C)#N | C2H3N
solvent | diethyl ether | 2ml | C(C)OCC | C4H10O
product | 3-cyanomethyl-5-fluoro-2-methyl-7-[4-fluorophenacyl)pyrrolo[2,3-b]pyridine hydrochloride | 8 mg, 42% | Cl.C(#N)CC1=C(N=C2N(C=C(C=C21)F)CC(=O)C2=CC=C(C=C2)F)C | InChI=1S/C18H13F2N3O.ClH/c1-11-15(6-7-21)16-8-14(20)9-23(18(16)22-11)10-17(24)12-2-4-13(19)5-3-12;/h2-5,8-9H,6,10H2,1H3;1H
